US04250094
In the manner given in Example 1, 7-methoxy-1-(chloromethyl)-6-[m-(methylthio)phenyl]-4H-s-triazolo-[4,3-a][1,4]benzodiazepine was reacted with dimethylamine in the presence of sodium iodide to give 1-[(dimethylamino)methyl]-7-methoxy-6-[m-(methylthio)phenyl]-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 7-methoxy-1-(chloromethyl)-6-[m-(methylthio)phenyl]-4H-s-triazolo-[4,3-a][1,4]benzodiazepine | COC1=CC=CC2=C1C(=NCC=1N2C(=NN1)CCl)C1=CC(=CC=C1)SC | C19H17ClN4OS
reactant | dimethylamine | CNC | C2H7N
reactant | sodium iodide | [I-].[Na+]
product | 1-[(dimethylamino)methyl]-7-methoxy-6-[m-(methylthio)phenyl]-4H-s-triazolo[4,3-a][1,4]benzodiazepine | CN(C)CC1=NN=C2N1C1=C(C(=NC2)C2=CC(=CC=C2)SC)C(=CC=C1)OC | C21H23N5OS
